US06555584B1
N-[2-(3-Benzyloxybenzamido)benzenesulfonyl]-3-benzyloxybenzamide
A benzene (10 ml) solution containing 600 mg (2.3 mmol) of 3-benzyloxybenzoic acid and 1.5 ml of thionyl chloride was heated under reflux for 2 hours and then the solvent was evaporated. A dioxane (10 ml) solution of the resulting residue was added dropwise to a water-dioxane 1:1 (10 ml) solution containing 248 mg (1.44 mmol) of 2-amino-benzenesulfonamide and 726 mg (5.2 mmol) of potassium carbonate, and the mixture was stirred at room temperature for 3 hours. After completion of the reaction, dioxane was evaporated, the resulting residue was acidified by adding 1 N HCl under ice-cooling and extracted with ethyl acetate. The extract was washed with water and saturated brine and dried over anhydrous sodium sulfate, and then the solvent was evaporated under a reduced pressure. By recrystallizing the resulting residue from acetonitrile, 200 mg (yield: 90%) of the title compound was obtained.

reactant | 3-benzyloxybenzoic acid | 2.3 mmol, 600 mg | C(C1=CC=CC=C1)OC=1C=C(C(=O)O)C=CC1 | C14H12O3
reactant | thionyl chloride | 1.5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-amino-benzenesulfonamide | 1.44 mmol, 248 mg | NC1=C(C=CC=C1)S(=O)(=O)N | C6H8N2O2S
reactant | potassium carbonate | 5.2 mmol, 726 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | N-[2-(3-Benzyloxybenzamido)benzenesulfonyl]-3-benzyloxybenzamide | 200 mg, yield: 90% | C(C1=CC=CC=C1)OC=1C=C(C(=O)NC2=C(C=CC=C2)S(=O)(=O)NC(C2=CC(=CC=C2)OCC2=CC=CC=C2)=O)C=CC1 | C34H28N2O6S
